US08183255B2
Intermediate G1(i): 5-[(4-fluoro-1-methylpiperidin-4-yl)carbonyl]-N-(5-fluoro-2-vinylpyrimidin-4-yl)-6,6-dimethyl-1,4,5,6-tetrahydropyrrolo[3,4-c]pyrazol-3-amine
To a pressure vessel was added starting material [3-(2-Chloro-5-fluoro-pyrimidin-4-ylamino)-6,6-dimethyl-4,6-dihydro-1H-pyrrolo[3,4-c]pyrazol-5-yl]-(4-fluoro-1-methyl-piperidin-4-yl)-methanone (0.375 g, 0.881 mmol), 4,4,5,5-tetramethyl-2-vinyl-1,3,2 dioxaborolane (0.407 g, 2.64 mmol), Na2CO3 (0.280 g, 2.64 mmol) and dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct (0.144 g, 0.176 mmol) followed by DME (10 mL) and water (2 mL). The reaction mixture was purged with argon for 2 min, then heat to 100° C. for 15 h. The volatiles were concentrated in vacuo and the residue redissolved in EtOAc (15 mL). The organic layer was washed with water (10 mL), dried over MgSO4, filtered, and concentrated to give the desired product G1(i) as a brown foam (0.35 g, 95%). Mass Spectrum: Calcd for C20H26N7OF2 (M+H): 418. Found: 418.

reactant | [3-(2-Chloro-5-fluoro-pyrimidin-4-ylamino)-6,6-dimethyl-4,6-dihydro-1H-pyrrolo[3,4-c]pyrazol-5-yl]-(4-fluoro-1-methyl-piperidin-4-yl)-methanone | 0.881 mmol, 0.375 g | ClC1=NC=C(C(=N1)NC=1C2=C(NN1)C(N(C2)C(=O)C2(CCN(CC2)C)F)(C)C)F | C18H22ClF2N7O
reactant | 4,4,5,5-tetramethyl-2-vinyl-1,3,2 dioxaborolane | 2.64 mmol, 0.407 g | CC1(OB(OC1(C)C)C=C)C | C8H15BO2
reactant | Na2CO3 | 2.64 mmol, 0.280 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | DME | 10 mL | COCCOC | C4H10O2
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct | 0.176 mmol, 0.144 g | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
solvent | water | 2 mL | O | H2O
product | 5-[(4-fluoro-1-methylpiperidin-4-yl)carbonyl]-N-(5-fluoro-2-vinylpyrimidin-4-yl)-6,6-dimethyl-1,4,5,6-tetrahydropyrrolo[3,4-c]pyrazol-3-amine | FC1(CCN(CC1)C)C(=O)N1C(C=2NN=C(C2C1)NC1=NC(=NC=C1F)C=C)(C)C | C20H25F2N7O
